* Subcircuit SC_7480_new
.subckt SC_7480_new net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ? net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ ? 
* c:\fossee2\esim\library\subcircuitlibrary\sc_7480_new\sc_7480_new.cir
.include 3_and.sub
.include 4_OR.sub
* u2  net-_u1-pad8_ net-_u1-pad9_ net-_u2-pad3_ d_nand
* u4  net-_u2-pad3_ net-_u1-pad10_ net-_u4-pad3_ d_and
* u15  net-_u10-pad3_ net-_u1-pad4_ net-_u15-pad3_ d_and
* u16  net-_u1-pad4_ net-_u11-pad3_ net-_u16-pad3_ d_and
* u17  net-_u1-pad4_ net-_u1-pad3_ net-_u17-pad3_ d_and
x2 net-_u15-pad3_ net-_u16-pad3_ net-_u17-pad3_ net-_x1-pad4_ net-_u18-pad1_ 4_OR
* u18  net-_u18-pad1_ net-_u1-pad6_ d_inverter
* u20  net-_u1-pad6_ net-_u1-pad5_ d_inverter
* u12  net-_u1-pad3_ net-_u10-pad3_ net-_u12-pad3_ d_and
* u13  net-_u1-pad3_ net-_u11-pad3_ net-_u13-pad3_ d_and
* u14  net-_u11-pad3_ net-_u10-pad3_ net-_u14-pad3_ d_and
x3 net-_u12-pad3_ net-_u13-pad3_ net-_u14-pad3_ ? net-_u19-pad1_ 4_OR
* u19  net-_u19-pad1_ net-_u1-pad4_ d_inverter
* u3  net-_u1-pad12_ net-_u1-pad13_ net-_u3-pad3_ d_nand
* u5  net-_u3-pad3_ net-_u1-pad1_ net-_u5-pad3_ d_and
x1 net-_u11-pad3_ net-_u10-pad3_ net-_u1-pad3_ net-_x1-pad4_ 3_and
* u7  net-_u1-pad11_ net-_u10-pad2_ d_inverter
* u9  net-_u5-pad3_ net-_u11-pad1_ d_inverter
* u6  net-_u1-pad2_ net-_u11-pad2_ d_inverter
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_or
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_or
* u8  net-_u4-pad3_ net-_u10-pad1_ d_inverter
a1 [net-_u1-pad8_ net-_u1-pad9_ ] net-_u2-pad3_ u2
a2 [net-_u2-pad3_ net-_u1-pad10_ ] net-_u4-pad3_ u4
a3 [net-_u10-pad3_ net-_u1-pad4_ ] net-_u15-pad3_ u15
a4 [net-_u1-pad4_ net-_u11-pad3_ ] net-_u16-pad3_ u16
a5 [net-_u1-pad4_ net-_u1-pad3_ ] net-_u17-pad3_ u17
a6 net-_u18-pad1_ net-_u1-pad6_ u18
a7 net-_u1-pad6_ net-_u1-pad5_ u20
a8 [net-_u1-pad3_ net-_u10-pad3_ ] net-_u12-pad3_ u12
a9 [net-_u1-pad3_ net-_u11-pad3_ ] net-_u13-pad3_ u13
a10 [net-_u11-pad3_ net-_u10-pad3_ ] net-_u14-pad3_ u14
a11 net-_u19-pad1_ net-_u1-pad4_ u19
a12 [net-_u1-pad12_ net-_u1-pad13_ ] net-_u3-pad3_ u3
a13 [net-_u3-pad3_ net-_u1-pad1_ ] net-_u5-pad3_ u5
a14 net-_u1-pad11_ net-_u10-pad2_ u7
a15 net-_u5-pad3_ net-_u11-pad1_ u9
a16 net-_u1-pad2_ net-_u11-pad2_ u6
a17 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a18 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a19 net-_u4-pad3_ net-_u10-pad1_ u8
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u2 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u16 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u13 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u14 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u3 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u10 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u11 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SC_7480_new